US05763437
A stirred solution of (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one (0.22 g) in tetrahydrofuran (10 ml) was treated with a solution of hydrazine monohydrate (23 mg) in tetrahydrofuran (1 ml) at ambient temperature, and the mixture was stirred for 2 hours at the same temperature, then heated at reflux temperature for 1 hour. After cooling, the resultant precipitates were filtered off. The filtrate was concentrated in vacuo. The residue was taken up with 1N aqueous hydrohloric acid and washed with isopropyl ether. The aqueous layer was alkalined with sodium carbonate and extracted with chloroform. The extract was dried over sodium sulfate, filtered and concentrated in vacuo to give (3RS)-3-amino-5-cyclohexyl-2,3-dihydro-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one (0.12 g) as an yellow oil which was used in a following reaction step without further purification.

reactant | (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.22 g | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NC=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C29H26N4O3
reactant | hydrazine monohydrate | 23 mg | O.NN
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (3RS)-3-amino-5-cyclohexyl-2,3-dihydro-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one | 0.12 g | NC1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)CC2=NC=CC=C2)=O | C21H24N4O
